US08609644B2
3β-[3-(N-Carbobenzyloxy-N-methylamino)propionyloxy]-6-(E)-hydroxyiminoandrostan-17-one
The procedure described in Prepn. 20 was followed starting from 3β-(N-carbobenzyloxy-N-methyl-3-aminopropionyloxy)androstane-6,17-dione (0.70 g) and hydroxylamine hydrochloride. The residue was purified by flash chromatography (SiO2, n-hexane/acetone 60/40) to give the title compound (0.43 g, 60%). 1H-NMR (300 MHz, DMSO-d6, ppm from TMS): δ 10.31 (1H, s), 7.30 (5H, m), 5.05 (2H, s), 4.56 (1H, m), 3.50-0.87 (27H, m), 0.78 (3H, s), 0.68 (3H, s).

reactant | 3β-(N-carbobenzyloxy-N-methyl-3-aminopropionyloxy)androstane-6,17-dione | 0.70 g | C(=O)(OCC1=CC=CC=C1)N(CCC(=O)O[C@@H]1CC2C(C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)=O)C | C31H41NO6
reactant | hydroxylamine hydrochloride | Cl.NO
product | 3β-[3-(N-Carbobenzyloxy-N-methylamino)propionyloxy]-6-(E)-hydroxyiminoandrostan-17-one | 0.43 g, 60% | C(=O)(OCC1=CC=CC=C1)N(C)CCC(=O)O[C@@H]1CC2/C(/C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)=N/O | C31H42N2O6
